US03959322
13β-Ethyl-gon-4-en-3,17-dione
Heat 13β-ethyl-3-methoxy-17,17-ethylenedioxy-gona-2,5(10)-diene (0.1 g.) in glacial acetic acid (2.5 cc.) and water (1 cc.) on a steam bath for 20 minutes, bring finally to boiling and allow to cool. Add aqueous sodium bicarbonate to neutralize the solution and ether extract the product. Wash, dry and evaporate the ether extracts to furnish a residue (0.065 g.); crystallize from a mixture of acetone and light petroleum to obtain the title compound (0.01 g.), m.p. 154°-5°; ultraviolet absorption peak at 239 mμ (ε15,000); infrared absorption peaks at 5.75, 5.96 μ.

reactant | 13β-ethyl-3-methoxy-17,17-ethylenedioxy-gona-2,5(10)-diene | 0.1 g | C(C)[C@]12C3(CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1CC2)OC)OCCO3 | C22H32O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 2.5 cc | C(C)(=O)O | C2H4O2
solvent | water | 1 cc | O | H2O
product | 13β-Ethyl-gon-4-en-3,17-dione | 0.01 g | C(C)[C@]12C(CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)=O | C19H26O2
